US07345180B2
Methyl 4-methyl-4-nitropentanoate (5.00 g) was dissolved in ethanol (25 ml), and 1 N sodium hydroxide solution was added thereto and stirred for 1 day. The mixture was concentrated under reduced pressure, then chloroform and water were added thereto, and the aqueous phase was washed with chloroform. 2 N Hydrochloric acid (20 ml) was added to the aqueous phase which was then extracted with chloroform, and the extract was dried over sodium sulfate anhydrous. The product was concentrated under reduced pressure to give 4-methyl-4-nitropentanoic acid (4.32 g, Y.:94%) as white crystals.

reactant | Methyl 4-methyl-4-nitropentanoate | 5.00 g | CC(CCC(=O)OC)(C)[N+](=O)[O-] | C7H13NO4
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-methyl-4-nitropentanoic acid | 4.32 g, 94% | CC(CCC(=O)O)(C)[N+](=O)[O-] | C6H11NO4
